US06509499B1
1.3 ml (16.1 mmol) of pyridine, dried over potassium hydroxide, and 2.3 g (12.1 mmol) of 3-methylbenzenesulphonyl chloride are successively added to a solution, maintained under a nitrogen atmosphere, of 2.0 g (8.19 mmol) of 3,5-dimethyl-4-[(nitromethyl]sulphonyl]aniline in 50 ml of anhydrous tetrahydrofuran. The reaction medium is stirred for 24 h at room temperature and then maintained at 40° C. for 1 h, after which it is poured into a mixture of 100 ml of water and 100 g of ice. This mixture is acidified to pH 3 by addition of 1N hydrochloric acid and is extracted with 3 times 100 ml of methylene chloride. The combined organic extracts are washed with 100 ml of water, dried over sodium sulphate and concentrated to dryness under reduced pressure. The residue obtained is purified by chromatography on a column of silica (eluent: methylene chloride) to give 2.3 g (71%) of N-[3,5-dimethyl-4-[(nitromethyl)sulphonyl]phenyl]-3-methylbenzenesulphonamide.

reactant | pyridine | 16.1 mmol, 1.3 ml | N1=CC=CC=C1 | C5H5N
reactant | potassium hydroxide | [OH-].[K+]
reactant | 3-methylbenzenesulphonyl chloride | 12.1 mmol, 2.3 g | CC=1C=C(C=CC1)S(=O)(=O)Cl | C7H7ClO2S
reactant | 3,5-dimethyl-4-[(nitromethyl]sulphonyl]aniline | 8.19 mmol, 2.0 g | CC=1C=C(N)C=C(C1S(=O)(=O)C[N+](=O)[O-])C | C9H12N2O4S
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | N-[3,5-dimethyl-4-[(nitromethyl)sulphonyl]phenyl]-3-methylbenzenesulphonamide | 2.3 g, 71% | CC=1C=C(C=C(C1S(=O)(=O)C[N+](=O)[O-])C)NS(=O)(=O)C1=CC(=CC=C1)C | C16H18N2O6S2
